US04975455
STAGE A: 4-(HYDROXYMETHYL)BENZOIC ACID
A solution of 3.68 g (92.3 mmol) of sodium borohydride, dissolved in 30 ml of water to which 5 ml of 5N NaOH have been added, is added dropwise and with stirring to a solution of 13.86 g (92.3 mmol) of 4-formylbenzoic acid in 200 ml of absolute ethanol. The reaction medium is left thus for 5 hours with stirring at room temperature. The ethanol is then removed by evaporation under vacuum and the residue is taken up with water and then acidified with 5N hydrochloric acid: the precipitate obtained is separated by filtration on a sinter.

reactant | sodium borohydride | 92.3 mmol, 3.68 g | [BH4-].[Na+]
reactant | 4-formylbenzoic acid | 92.3 mmol, 13.86 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
solvent | water | 30 ml | O | H2O
solvent | NaOH | 5N, 5 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(HYDROXYMETHYL)BENZOIC ACID | OCC1=CC=C(C(=O)O)C=C1 | C8H8O3
